US08809446B2
Preparation of 3-(methacryloyloxy)-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate
To a 1-L flask was charged 2,2,4,4-tetramethyl-1,3-cyclobutanedione (140.2 g, 1.0 moles), neopentyl glycol (208.3 g, 2 moles), potassium carbonate (138 g, 1.0 moles) and methylene chloride (500 g). The batch was refluxed for three hours then clarified to remove salts. The methylene chloride was removed with a rotary evaporator. Toluene (250 g) was added to the residue and the organic layer washed six times with 150 mL demineralized water. The organic layer was dried with sodium sulfate and the solvent removed with a rotary evaporator at 75° C./3 mmHg to provide 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate (244 g, 96.3% GC assay). To a 2-L flask was charged 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate (97.6 g, 0.4 moles), methylene chloride (600 g), DMAP (0.04 g) and triethylamine (50.4 g, 0.504 moles) and the resulting mixture cooled to 0-5° C. Added dropwise over an hour was methacryloyl chloride (50 g, 0.48 moles). After the addition was complete, the reaction was held at <10° C. for 30 minutes then heated to reflux and held for six hours. GC analysis indicated starting material remained so additional methacryloyl chloride (6 g) and triethylamine (6 g) were added. After one hour at reflux, the reaction was cooled and 600 mL demineralized water added. Lower product layer decanted and upper water layer discarded. Water wash was repeated four times. Organic layer dried with sodium sulfate and then removed with a rotary evaporator to provide 123 g crude product (93.7% GC assay). Material distilled in a Kugelrohr apparatus to provide the desired product in 96% GC assay and 94.9% NMR assay.

reactant | 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate | 0.4 moles, 97.6 g | CC(C(=O)OCC(CO)(C)C)(C(C(C)C)=O)C | C13H24O4
reactant | methylene chloride | 600 g | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 0.504 moles, 50.4 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 0.48 moles, 50 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | methacryloyl chloride | 6 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 6 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.04 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 3-(methacryloyloxy)-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate | CC(C(=O)OCC(COC(C(=C)C)=O)(C)C)(C(C(C)C)=O)C | C17H28O5
